Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Streptomycin / Versed / Fentanyl
 
Attending: ___.
 
Chief Complaint:
 Dizziness and chest pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
 ___ y.o. ___ Speaking only Female with h.o. DM II, Afib on 
Coumadin, Pulm HTN, dCHF p/w A.fib with RVR and symptomatic 
hypotension.  
.  
Via family it appears pt woke up this morning feeling very 
lightheaded and dizzy, she decided to go an see her PCP. At the 
PCP's office she was noted to be in A.fib with a rate in the 
120s-130s as well as a sytolic blood pressure of 95. Pt was then 
referred directly to the ED given her heart rate and symptomatic 
hypotension.  
.  
She does endorse the sensation of palpations but it appears she 
has had this sensation for a long time and she denies any 
worsening of it recently. She denies any difficulty breathing, 
chest pain, nausea, vomiting, diarrhea, abdominal pain, fevers 
or chills. She does endorse feeling very thirsty over the past 
few days, however per the daughter the pt always feels thirsty 
and appears more swollen to her. She has also, per PCP referral, 
had ___ 9lb weight gain.  
.  
In the ED an EKG showed she was in A.fib with a rate in the 
110s, she also received a chest x-ray which per the ED read 
looked mildly fluid overloaded. She felt very thirsty and so had 
some PO fluids, in the ED she received <500 of IVF. Prior to 
transfer her vitals ranged from BP 100->110, HR 110-118 RR 20, 
Sat 99% on RA.  

 
Past Medical History:
1. Atrial fibrillation.  
2. Hypertension.  
3. Dyslipidemia.  
4. Obstructive sleep apnea with secondary pulmonary HTN (uses 
CPAP but does not know settings)  
5. Chronic diastolic heart failure.  
6. Diabetes mellitus type 2; ___ HbA1c 7.9
7. Chronic kidney disease (baseline Cr ~1.2)  
8. S/p lap appy (___) 
9. Diabetic neuropathy 
 
Social History:
___
Family History:
There is no family history of premature coronary artery disease  

 
Physical Exam:
ON ADMISSION:  
Vitals - T: 97.3 BP: 90-110/40-52 HR: ___ RR: 18 02 sat: 98RA  

GENERAL: NAD, Moribdly obese Female laying flat but rotated to 
the left  
HEENT: No scleral icterus. EOMI. MMM. small tears.  
Neck: Difficult to evaluate for JVP  
PULMONARY: Distant but clear to auscultation. No wheezes or 
crackles  
CARDIAC: Distant S1, S2, irregularly irregular. No murmurs, rubs 
or ___.  
ABDOMEN: Obese, ecchymoses scattered over surface, soft, 
distended, NT, ND. Non-tender hepatomegaly to 1.5 inches below 
CM with unclear Left lobe size  
EXTREMITIES: 1+ pitting edema b/l ___.  
NEURO: AAO x 3. Appropriate. CN ___ grossly intact. Preserved 
sensation throughout. ___ strength throughout.  
.  
CHANGES BY DISCHARGE
1) BP between 110-130
2) Resolved pitting edema
 
Pertinent Results:
ON ADMISSON

___ 05:20PM BLOOD WBC-5.5 RBC-2.94* Hgb-8.2* Hct-27.3* 
MCV-93 MCH-28.0 MCHC-30.2* RDW-16.2* Plt ___
___ 05:20PM BLOOD Neuts-70.3* ___ Monos-4.8 Eos-1.3 
Baso-0.6
___ 05:20PM BLOOD Plt ___
___ 07:30PM BLOOD ___ PTT-29.4 ___
___ 05:20PM BLOOD Glucose-147* UreaN-47* Creat-1.9* Na-136 
K-5.0 Cl-97 HCO3-32 AnGap-12
___ 05:20PM BLOOD CK(CPK)-45
___ 05:20PM BLOOD cTropnT-<0.01
___ 05:20PM BLOOD CK-MB-NotDone proBNP-1629*
___ 07:15AM BLOOD Calcium-8.7 Phos-3.5 Mg-2.6

ON DISCHARGE

___ 06:20AM BLOOD WBC-5.4 RBC-3.10* Hgb-8.8* Hct-28.7* 
MCV-93 MCH-28.3 MCHC-30.5* RDW-15.5 Plt ___
___ 10:38AM BLOOD ___
___ 06:20AM BLOOD Glucose-84 UreaN-40* Creat-1.7* Na-140 
K-4.4 Cl-95* HCO3-37* AnGap-12
___ 07:10AM BLOOD TSH-6.7*

STUDIES

CXR ___
Frontal view is compromised secondary to AP lordotic 
positioning.  
The lungs are grossly clear without consolidation. No 
significant pulmonary edema is identified. The mediastinum is 
unremarkable. The cardiac silhouette is borderline enlarged, 
accentuated by the positioning and technique. No effusion or 
pneumothorax is noted. Multilevel compression fractures are 
identified in the included thoracolumbar spine, which are stable 
relative to prior exams. 
IMPRESSION: No acute pulmonary process. Incidental findings as 
above 
.  

 
Brief Hospital Course:
IN SUMMARY
 ___ y.o. Female with history of diastolic CHF, A. fib on 
Coumadin, HTN, HL, CRI presenting with A. fib with intermittent 
RVR and hypotension. On admission, she was given less beta and 
calcium channel blockade than that of her home regimen. 
Nevertheless, she has been rate controlled since arrival on the 
floor save for two episodes. At 0200 on ___, the patient had 
an episode of asymptomatic bradycardia (39) with sinus pause and 
a BP of 120/70. At 0900 on ___ the patient went back into RVR 
after a stressful conversation with her husband. Despite that, 
the patient has been clinically stable with stable blood 
pressures and largely rate controlled with a persistently 
negative fluid balance. On ___ we transitioned her back to her 
home dose of diltiazem. On ___ AM, we transitioned her back on 
atenolol, but quickly returned to ___ when she went into 
RVR. EP was consulted. They discussed her at conference and 
decided that she must optimize her weight, thyroid, sleep apnea 
status prior to anti-arrythmic. She was ___ Litres negative by 
the time of discharge. She was discharged on 75 mg Toprol XL and 
Dilt XL 240 mg BID. We tried to get her ___ of Hearts monitor 
but she refused. An Rx will left in OMR and she was counselled 
for 60 minutes total on the importance of this device
.  
BY PROBLEM 

1) A. fib with RVR: Pt noted to vary with her a. fib ranging 
from ___ with no evidence of flash pulmonary edema. It is 
unclear as to the recent cause of the A. fib with RVR as it 
appears pt has been compliant with her medications. On 
admission, patient was taken off of 25 mg Atenolol and put on 
Metoprolol Tartrate 25mg PO TID. We attempted to put her back on 
atenolol and she went back into RVR. She was started on 
Diltiazem 90mg PO QID given her relative hypotension and 
increased back to home dose (given improved BP) of 120mg QID (Pt 
takes 480mg per 24 hours). She was kept on tele, with on episode 
of asymptomatic bradycardia with sinus pauses. She was kept on 
Coumadin, on which was therapeutic. EP was consulted. They 
discussed her at conference and decided that she must optimize 
her weight, thyroid, sleep apnea status prior to anti-arrythmic. 
They believe that, for now, she should move toward beta-blockade 
predominant regimen while down-titrating the diltiazem.

2). Hypotension: Unclear if this is related to her episodes of 
A. fib with RVR. Given her diastolic dysfunction it is likely 
that once pt goes into A. fib with RVR she does not have 
enoought time to fill her ventricles and thus reduces her 
cardiac output. However it appears that is sometimes hypotensive 
irrespective of the RVR. Her BNP was mildly elevated especially 
when compared to her prior results. Her gain in weight, body 
edema and exquisite response to diuresis would point to an 
extravascular fluid overload state. Given that she was 
hypotensive, the original goal currently is to control her A. 
fib; holding her diuretics and lisinopril. Given her stability, 
we began actively diuresing her the day after admission. We held 
her lisinopril on discharge as her pressures were never greater 
than 130/70 
.  
3) Diastolic CHF with EF > 60%- pt's fluid status was never 
clear, clinically. Her lungs were clear and her pitting edema 
was far from impressive. Nevertheless, her obese abdomen may 
have had extra fluid. We used her daily oral dose of lasix with 
prn IV boluses of 20 mg IV to diurese. Patient tolerated this 
well, her fluid balance was between negative 4 and 5 litres 
(nursin notes incomplete with respect to ins). By ___ she 
was in contraction alkalosis with a slight bump in creatinine. 
We stopped the IV lasix and encouraged PO replacement. She may 
need to be put back on an ACEi when her rate control regime is 
worked out. 

4) Hypothyroidism: Was continued on home regimen of 
Levothyroxine. Midway through the admission, we checked the TSH 
as a cause of her presenting Afib. It turns out that she is 
HyPOthyroid and has had elevated TSH for months. We did not dare 
increase her thyroid replacement dosage until her rate/rhythm 
control regime is decided. Clearly, this could exacerbate her 
heart failure. 
.  
5) OSA: sleep apnea and the consequent catecholamine excess may 
be related to her RVR. She must continue BiPAP every night. She 
refused it while in the hospital

6) DM II: Patient on 70/30 BID, ISS on CBGs QID and glipidzide. 

TO BE RESOLVED
1) AFIB WITH RVR - optimize thyroid, weight loss and OSA tx. EP 
reccommended more beta block and less calcium channel
2) Hypothyroidism - pt may need increase in thyroid replacement 
dose and close monitoring
3) Obesity - patient may need professional nutritional 
intervention.

 
Medications on Admission:
1. Ambien 12.5mg qHs PRN  
2. Amitriptyline 10mg qHS  
3. Atenolol 25mg daily  
4. Atorvastatin 10mg qHs  
5. Cartia XT 240mg BId  
6. Colace 100mg BID  
7. diltiazem 240mg BID  
8. Estrace  
9. Folic Acid 1mg daily  
10. Furosemide 80mg daily  
11. Glipizide 5mg qPm  
12. Humulin 70/30 38qAM, 22uqPM  
13. Levothyroxine 88mcg daily  
14. Lisinopril 10mg daily  
15. Pantoprazole 40mg daily  
16. Senna  
17. Thiamine  
18. Warfarin 5mg daily  

 
Discharge Medications:
1. Atorvastatin 10 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
2. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
3. Levothyroxine 100 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Amitriptyline 10 mg Tablet Sig: Two (2) Tablet PO HS (at 
bedtime).  
5. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
6. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

7. Fenofibrate Micronized 145 mg Tablet Sig: One (1) Tablet PO 
daily ().  
8. Warfarin 5 mg Tablet Sig: One (1) Tablet PO Once Daily at 4 
___.  
9. Furosemide 80 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
10. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H 
(every 6 hours) as needed for back pain.  
11. Toprol XL 50 mg Tablet Sustained Release 24 hr Sig: 1.5 
Tablet Sustained Release 24 hrs PO once a day: Take every day in 
the early morning, at the same time.
Disp:*45 Tablet Sustained Release 24 hr(s)* Refills:*2*
12. Cartia XT 240 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO twice a day: Take one pill; Once 
in the morning and once in the evening, at 9 am and 9 pm.
Disp:*60 Capsule, Sust. Release 24 hr(s)* Refills:*2*
13. Glipizide 5 mg Tablet Sig: One (1) Tablet PO at bedtime.  
14. Humulin 70/30 100 unit/mL (70-30) Suspension Sig: Thirty 
Eight (38) units Subcutaneous qAM.  
15. Humulin 70/30 100 unit/mL (70-30) Suspension Sig: ___ 
(22) units Subcutaneous at bedtime.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY
Atrial fibrillation with RVR
SECONDARY
Diastolic Heart Failure
Fluid Overload
Pulmonary Hypertension
Obstructive Sleep Apnea

 
Discharge Condition:
afebrile, ambulating, in atrial fibrilation but rate controlled

 
Discharge Instructions:
You were admitted for high heart rate and low pressure. We 
controlled your pressure and rate while removing extra fluid. 
Your heart would race very fast occasionally and we treated you 
with extra heart medications. You were discharged on two heart 
medication. You must follow up with your cardiologist.
.
When you go home, you must take the pills that you were given in 
the hospital between 9pm-9:30pm. Those pills are Metoprolol 25mg 
and Diltiazem 120 mg.
.
Return to the hospital if you have high fevers, severe chest 
pain, the feeling like you are going to faint or any other 
symptoms that concern you.
.
Weigh yourself every morning, call MD if weight > 3 lbs.
Adhere to 2 gm sodium diet.
Foods with high sodium are deli meats, salted fish, pickles, 
canned foods, chips.
.
APPOINTMENTS
Provider: ___, MD ___ ___ 
10:00
Provider: ___, MD ___ ___ 
2:20
For a primary care appointment PCP: ___ ___.
.
NEW MEDICATIONS
1) Toprol XL 75 mg; take this pill once daily, every morning at 
the same time
STOP
1) Lisinopril 
.
You will need to get a ___ of Hearts" monitor. This is an 
event monitor that transmits daily heart information to a 
doctor. You must call ___ to schedule a time for 
teaching and to pick up the monitor.
 
Followup Instructions:
___